US07662824B2
A solution methanesulfonyl chloride (0.13 mL, 1.68 mmol) in THF (1 mL) was added to a solution of 4-bromo-1H-indole-6-carboxylic acid (3-hydroxy-propyl)-amide (0.50 g, 1.68 mmol) and triethylamine (0.25 mL, 1.84 mmol) in tetrahydrofuran (5 mL) at 0° C. and slowly warmed to room temperature over 30 minutes. (S)-(+)-2-pyrrolidinemethanol (1.0 g, 9.88 mmol) was added and stirred at room temperature overnight. The reaction was concentrated in vacuo and purified by column chromatography (5% methanol in dichloromethane) to yield 0.50 g (78%) of (S)-4-bromo-1H-indole-6-carboxylic acid [3-(2-hydroxymethyl-pyrrolidin-1-yl)-propyl]-amide. Mass spectrum (LCMS, ESI pos.): Calcd for C17H22BrN3O2 379.09. Found 380.0; (M+H).

reactant | methanesulfonyl chloride | 1.68 mmol, 0.13 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-bromo-1H-indole-6-carboxylic acid (3-hydroxy-propyl)-amide | 1.68 mmol, 0.50 g | OCCCNC(=O)C1=CC(=C2C=CNC2=C1)Br | C12H13BrN2O2
reactant | triethylamine | 1.84 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-(+)-2-pyrrolidinemethanol | 9.88 mmol, 1.0 g | N1[C@@H](CCC1)CO | C5H11NO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-4-bromo-1H-indole-6-carboxylic acid [3-(2-hydroxymethyl-pyrrolidin-1-yl)-propyl]-amide | 0.50 g, 78% | OC[C@H]1N(CCC1)CCCNC(=O)C1=CC(=C2C=CNC2=C1)Br | C17H22BrN3O2
